### PR TITLE
Andrewmwells/lean upgrade

### PR DESCRIPTION
**Pull request by andrewmwells-amazon**
*Issue #, if available:*

*Description of changes:*
Upgrade to Lean 4.7.0

### CODE REVIEW

File: cedar-lean/Cedar/Data/List.lean [hunk 1]
```diff
@@ -56,9 +56,17 @@ theorem sizeOf_snd_lt_sizeOf_list {α : Type u} {β : Type v} [SizeOf α] [SizeO
   x ∈ xs → sizeOf x.snd < 1 + sizeOf xs
 := by
   intro h
-  have := List.sizeOf_lt_of_mem h
-  have : sizeOf x = 1 + sizeOf x.1 + sizeOf x.2 := rfl
-  omega
```
Comment (andrewmwells-amazon) [inline cedar-lean/Cedar/Data/List.lean:61]: Issue with `omega`: https://github.com/leanprover/lean4/issues/3848

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 2]
```diff
@@ -139,6 +139,16 @@ theorem sizeOf_lt_of_value [SizeOf α] [SizeOf β] {m : Map α β} {k : α} {v :
   have _ : sizeOf m.1 < sizeOf m := by
     simp only [sizeOf, _sizeOf_1]
     omega
-  omega
```
Comment (andrewmwells-amazon) [inline cedar-lean/Cedar/Thm/Data/Map.lean:142]: I'll ask on Zulip, but surely a nicer proof is possible.

File: cedar-lean/Cedar/Data/List.lean (hunk 1 above)
Comment (emina) [reply cedar-lean/Cedar/Data/List.lean:61]: Interesting.  Do we know why this is a problem in the current version of Lean and wasn't in the older one we were using?  It sounds like this shouldn't have worked in the older version either but somehow did.

File: cedar-lean/Cedar/Spec/Wildcard.lean [hunk 3]
```diff
@@ -70,7 +70,7 @@ def wildcardMatchIdx (text : List Char) (pattern : Pattern) (i j : Nat)
          (← wildcardMatchIdx text pattern (i + 1) (j + 1) (by omega) (by omega))
   modifyGet λ cache => (r, cache.insert (i, j) r)
 termination_by
-  wildcardMatchIdx text pattern i j _ _=> (text.length - i) + (pattern.length - j)
+  (text.length - i) + (pattern.length - j)
```
Comment (emina) [inline cedar-lean/Cedar/Spec/Wildcard.lean:73]: Ah, do we have new `termination_by` syntax in this version of Lean?

File: cedar-lean/Cedar/Thm/Authorization/Evaluator.lean [hunk 4]
```diff
@@ -143,29 +143,29 @@ theorem and_produces_bool_or_error {e₁ e₂ : Expr} {request : Request} {entit
 := by
   cases h : evaluate (Expr.and e₁ e₂) request entities <;> simp
   case ok val =>
-    cases val <;> simp [evaluate, Result.as, Coe.coe, Value.asBool, Lean.Internal.coeM, pure, Except.pure] at h <;>
+    cases val <;> simp only [evaluate._eq_4, Result.as, Coe.coe, Value.asBool, Bool.not_eq_true',
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Authorization/Evaluator.lean:146]: We should not use internally generated names like `evaluate._eq_4` in `simp only`.  They are flaky.  

https://github.com/leanprover/lean4/issues/3547

I manually change all of them to just the externally visible names when they are suggested, in this case, `evaluate`.

File: cedar-lean/Cedar/Thm/Validation/Typechecker/UnaryApp.lean [hunk 5]
```diff
@@ -122,7 +122,7 @@ theorem type_of_neg_is_sound {x₁ : Expr} {c₁ c₂ : Capabilities} {env : Env
       have ⟨i, h₈⟩ := instance_of_int_is_int h₇
       subst h₈
       simp [apply₁, intOrErr]
-      cases h₉ : i.neg?
+      cases _h₉ : i.neg?
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Typechecker/UnaryApp.lean:125]: Curious:  why do we need the underscore before `h9` here?

**Review by emina — CHANGES_REQUESTED** [review]

File: cedar-lean/Cedar/Spec/Wildcard.lean (hunk 3 above)
Comment (andrewmwells-amazon) [reply cedar-lean/Cedar/Spec/Wildcard.lean:73]: Yeah, https://lean-lang.org/blog/2024-2-29-lean-460/

File: cedar-lean/Cedar/Data/List.lean (hunk 1 above)
Comment (andrewmwells-amazon) [reply cedar-lean/Cedar/Data/List.lean:61]: On zulip, Joachim said: "There was a change where omega would no longer check atoms for definitional equality, merely syntactic equal."
But it sounds like there's also an issue with `omega`. I don't know enough to pretend to understand the root cause.

File: cedar-lean/Cedar/Thm/Validation/Typechecker/UnaryApp.lean (hunk 5 above)
Comment (andrewmwells-amazon) [reply cedar-lean/Cedar/Thm/Validation/Typechecker/UnaryApp.lean:125]: To suppress a warning about it being unused. I'm sure there's some syntax to just omit it, but `_` doesn't work.

Comment (emina) [reply cedar-lean/Cedar/Thm/Validation/Typechecker/UnaryApp.lean:125]: Got it.

**Review by emina — APPROVED** [review]

**Review by shaobo-he-aws — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Data/LT.lean [hunk 6]
```diff
@@ -55,7 +55,7 @@ theorem IPNet.lt_conn {a₁ a₂ p₁ p₂ : Nat}
 
 instance IPNet.strictLT : StrictLT Ext.IPAddr.IPNet where
   asymmetric a b   := by
-    cases a <;> cases b <;> simp [LT.lt, Ext.IPAddr.IPNet.lt]
+    cases a <;> cases b <;> simp only [LT.lt] <;> simp only [Ext.IPAddr.IPNet.lt, UInt32.val_val_eq_toNat, Nat.lt_eq, Bool.or_eq_true, decide_eq_true_eq, Bool.and_eq_true, not_false_eq_true, not_true_eq_false, imp_self]
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/LT.lean:58]: I wonder if we should be defining some custom tactics for long `simp only` clauses. It seems like the instances in this file at least have a lot of overlap.

File: cedar-lean/Cedar/Spec/Wildcard.lean (hunk 3 above)
Comment (khieta) [inline cedar-lean/Cedar/Spec/Wildcard.lean:73]: Nit: since these clauses are so much shorter with the update, I think they'd look nicer on one line.

**Comment by emina** [comment]
> Lgtm!
> 
> Are the style/maintainability conventions we've been using (e.g., `simp only` instead of `simp`) documented somewhere? I'd feel bad if I made edits later that undid your, @cdisselkoen's, and @emina's hard work.

Good question.  I don't think we've updated the README etc to add these conventions.  (We adopted them from Mathlib.)

Here are the three that come to mind, and @cdisselkoen may remember more:

* Use `simp only` instead of `simp`.  It's okay to use `simp` to close a goal, but I personally just use `simp only` everywhere.  (Exceptions mean I forgot to do it).
* Use `have` to deconstruct values.  Use `rcases` only to split disjunctions. 
* Use `exact` instead of `apply` whenever possible.
* Fully spell out types in function and theorem declarations.  (You can often omit types and even variables, but I find things much easier to read quickly when the type declarations are spelled out.)

File: cedar-lean/Cedar/Thm/Data/LT.lean (hunk 6 above)
Comment (andrewmwells-amazon) [reply cedar-lean/Cedar/Thm/Data/LT.lean:58]: Seems like a good idea but I don't know how to do it quickly and want to get this merged now so I'll open an issue: https://github.com/cedar-policy/cedar-spec/issues/279

**Review by shaobo-he-aws — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Validation/Typechecker/UnaryApp.lean (hunk 5 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Validation/Typechecker/UnaryApp.lean]: `cases i.neg?` should work
